US07304161B2
In a 25 mL vial, 123.1 mg (0.388 mmol) of 4-ethyl-benzoic acid N′-(1-tert-butyl-heptyl)-hydrazide were dissolved in 5 mL CH2Cl2. 3 equivalents of PS-NMM (polystyrene-SO2NH(CH2)3-morpholine, Argonaut Tech.) were added, followed by 3 mL CH2Cl2 to create a stirable suspension. One equivalent of acid chloride was added, and the reaction mixture was stirred overnight. The next day, 2 equivalents of AP-NCO resin (isocyante scavenger, Argonaut Tech.) and 2 equivalents of AP-trisamine (polystyrene-CH2NHCH2CH2NH(CH2CH2NH2)2, Argonaut Tech.) were added with 3 mL CH2Cl2. The mixture was stirred for four hours and the resins were filtered. The reaction was analyzed by TLC, the solvent was removed, and the residue was dried under vacuum. After silica gel column chromatography using a 0–100% ether in hexane gradient, 107.5 mg of 2-methoxy-nicotinic acid N-(1-tert-butyl-heptyl)-N′-(4-ethyl-benzoyl)-hydrazide were isolated.

reactant | 4-ethyl-benzoic acid N′-(1-tert-butyl-heptyl)-hydrazide | 0.388 mmol, 123.1 mg | C(C)(C)(C)C(CCCCCC)NNC(C1=CC=C(C=C1)CC)=O | C20H34N2O
reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxy-nicotinic acid N-(1-tert-butyl-heptyl)-N′-(4-ethyl-benzoyl)-hydrazide | 107.5 mg | C(C)(C)(C)C(CCCCCC)N(NC(C1=CC=C(C=C1)CC)=O)C(C1=C(N=CC=C1)OC)=O | C27H39N3O3
